US06399779B1
Synthesis of 3,3′-Dimethyl-2,2′-bipyridine
Placed 172 mg(1.0 mmol) of 2-bromo-3-methylpyridine in a reaction tube together with 281 mg (1.11 mmol) of the pinacol ester of diboronic acid, 22.5 mg Pd(OAc)2 and 300 mg (3.06 mmol) of KOAc After addition of 5 ml ethanol the mixture was warmed to 80° C. After 6 h the gc of an aliquot of the reaction mixture (extracted with ether/water) indicated the formation of the 3,3′-dimethyl-2,2′-bipyridine. The reaction was left for 65 h at 80° C. after which the only peaks detected in the gc, of the ether solution of an ether/water extracted sample of the reaction solution, were 3,3′-dimethyl-2,2′-bipyridine (gc/ms, m/z 185, M+1) and the pinacol ester of diboronic acid.

reactant | 2-bromo-3-methylpyridine | 1.0 mmol, 172 mg | BrC1=NC=CC=C1C | C6H6BrN
reactant | diboronic acid | B(O)OBO | B2H4O3
reactant | KOAc | 3.06 mmol, 300 mg | CC(=O)[O-].[K+]
catalyst | Pd(OAc)2 | 22.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3,3′-Dimethyl-2,2′-bipyridine | CC=1C(=NC=CC1)C1=NC=CC=C1C | C12H12N2
